US07452911B2
3.6a 4-bromo-2-trifluoromethoxy-phenol
1.55 mL (30.3 mmol) bromine in 50 mL DCM is added dropwise to a solution of 5.0 g (28.1 mmol) 2-trifluoromethoxy-phenol in 70 mL DCM at −78° C. The reaction solution is heated to RT and stirred for a further 48 h. Then 70 mL Na2SO3 solution are added and the mixture is stirred until the orange colour has disappeared. The solution is diluted with DCM, the organic phase is washed with NaCl solution, dried over MgSO4 and the solvent is eliminated i.vac. The purification is carried out by column chromatography on silica gel (gradient: PE to PE:EtOAc 4:1).

reactant | bromine | 30.3 mmol, 1.55 mL | BrBr | Br2
reactant | 2-trifluoromethoxy-phenol | 28.1 mmol, 5.0 g | FC(OC1=C(C=CC=C1)O)(F)F | C7H5F3O2
reactant | Na2SO3 | 70 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-trifluoromethoxy-phenol | BrC1=CC(=C(C=C1)O)OC(F)(F)F | C7H4BrF3O2
